Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
Found down
 
Major Surgical or Invasive Procedure:
___ Ant Corpectomy C7, C4-T1 fusion, post fusion C4-T1
 
History of Present Illness:
Eu critical ___ is an ___ yo female who was found down
after being down for an unknown length of time although 
estimated
___ approximately 8 hours. The patients daughter who lives in
___ called the police department to perform a well check 
on
her mother and when she was found down she was unable to move or
feel her legs, and was hypothermic, bradycardic, and 
hypotensive.
Neurosurgery was consulted on patient arrival for further
evaluation and recommendations.
 
Past Medical History:
Unknown
 
Social History:
___
Family History:
NC
 
Physical Exam:
=============
ON ADMISSION
=============
Gen: log roll, on back board
HEENT: some dirt covering face, normocephalic, atraumatic
Neck: cervical collar in place
Extrem: cold to touch
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G
R     4    5     0    4    4     1     0  0     0      0     0  
L     4    5     0    4    4     0     0  0     0      0     0

Reflexes: B   T  Br   Pa  Ac
Right     3+  3+  3+  absent 
Left      3+  3+  3+  absent

Toes mute
Rectal tone absent

=============
ON DISCHARGE

CURRENT PHYSICAL EXAM:  
General: elderly female, appears comfortable 
HEENT: trach in place, Mucous membranes moist
Neck: Incisions c/d/I, open to air
CV: RRR, S1, S2, S4, possibly also S3
Lungs: coarse rhonchi, decreased at bases bilaterally
Abdomen: soft, slightly distended, +hyperactive BS, Peg site 
with minimal drainage 
GU: foley in place 
Ext:  warm, well perfused, pitting edema present b/l hands L>R, 
and bilat lower extremities
Skin: intact 

Neuro:  
MS- opens eyes spont, follows commands briskly, nods yes and no, 
mouths words appropriately. 
CN- pupils ___ bilat, face appear symmetric
Sensory/Motor- Bilateral distal>proximal weakness. BUE ___ delt 
(varies significantly by effort), 3 to ___ L stronger than R 
tri, ___ bi. Bilat hand grasp ___. bilat wrist flexion ___. BLE 
___ to noxious
Reflexes- UE 2+ reflexes (bi, tri, BR) 0 patella, 0 Achilles
Coordination- no dysmetria with large scale upper extremity 
movements

=============
 
Pertinent Results:
==============
IMAGING & LABS
==============

___ CT torso: 1. Acute T2 and T7 compression fractures without 
retropulsion of fracture 
fragments into the adjacent spinal canal.  Cervical fracture and 

anterolisthesis of C6 over C7 is better seen on the dedicated CT 
cervical 
spine. 
2. No acute intra-abdominal or intrapelvic abnormalities. 
3. Multiple hypodensities in the pancreas, measuring up to 4 mm, 
likely 
representing side-branch IPMNs. 
4. Multinodular goiter. 

___ MR ___ spine: . Again seen are multiple fractures of the 
cervical spine, better assessed on 
recent CT neck, with anterolisthesis of C6 on C7, acute moderate 
compression 
fracture of C7 vertebral body with associated retropulsion 
component causing 
severe spinal canal stenosis with cord compression, cord edema, 
and diffusion 
abnormality suggestive of cord contusion or ischemia. 
2. Injury to the anterior longitudinal ligament, posterior 
longitudinal 
ligament, interspinous ligament and ligamentum nuchae. 
3. Nonspecific bone marrow signal abnormality of the visualized 
T1-T4 
vertebral bodies, may be related to osseous contusion. 
4. Moderate multilevel cervical spondylosis. 

___ TTE: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). The right 
ventricular cavity is mildly dilated with borderline normal free 
wall function. The right ventricular apex is relative 
hyperkinetic, c/w ___ sign (seen in pulmonary embolism). 
The aortic valve leaflets are mildly thickened (?#). There is no 
aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is moderate 
pulmonary artery systolic hypertension. There is an anterior 
space which most likely represents a prominent fat pad. A left 
pleural effusion is present. 
 IMPRESSION: Milldly dilated right ventricle with borderline 
free wall systolic function but relative hypercontractility of 
the apex (consider pulmonary embolism). Moderate pulmonary 
hypertension. Normal left ventricular global/regional systolic 
function. Elevated LV filling pressure suggested. Mild mitral 
regurgitation. 
 

___ CTA chest: No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. There has been interval improvement in patchy airspace 
disease within the 
right upper lobe and lingula.  Patchy airspace disease within 
the inferior 
right upper lobe has also slightly improved.  There is minimal 
patchy airspace 
disease within the right middle lobe without significant change. 
 Bibasilar 
collapse and consolidation re-demonstrated concerning for 
pneumonia left 
greater than right with air bronchograms. 

___ 02:36AM BLOOD Plt ___

___ 02:36AM BLOOD WBC-8.1 RBC-2.93* Hgb-8.6* Hct-26.9* 
MCV-92 MCH-29.4 MCHC-32.0 RDW-13.7 RDWSD-45.3 Plt ___

___ 02:35AM BLOOD Glucose-133* Creat-0.5 Na-140 K-3.5 
Cl-101 HCO3-30 AnGap-13

___ 02:50AM BLOOD Glucose-154* UreaN-29* Creat-0.9 Na-137 
K-4.5 Cl-107 HCO3-21* AnGap-14

___ 02:50AM BLOOD WBC-12.3* RBC-3.93 Hgb-11.9 Hct-35.0 
MCV-89 MCH-30.3 MCHC-34.0 RDW-12.3 RDWSD-40.0 Plt ___
 
Brief Hospital Course:
Ms. ___ was transferred to the ___ 
ED after being found down outside with loss of motor and 
sensation to her lower extremities.  MRI showed unstable C3-C7 
fractures with canal disruption and spinal cord injury.  She was 
hypothermic, hypotensive and bradycardic; she was admitted to 
the TSICU in acute spinal shock and transferred to Neuro ICU 
Post op. 

#Neuro
The patient was admitted to the TSICU in acute spinal shock.  
Cervical collar remained in place; she was maintained on 
norepinephrine drip to maintain MAP>70 for cord perfusion, which 
was transitioned to phenylephrine (see Cardiac section). MAP 
goal was relaxed on HD 2. Surgical fusion was discussed with the 
patient and family and she was placed on the OR schedule for 2 
stage posterior and anterior fusions. Family meeting was held on 
HD 3 all questions answered. On ___, she underwent anterior C7 
corpectomy and C4-T1 fusion, and stage II posterior fusion C4-T1 
with Dr. ___. Procedure was uncomplicated and she was 
transferred intubated to the ICU postop. She remained in hard 
collar at all times postoperatively. On ___, staples were 
removed. The incision appeared well healed. On ___, cervical 
collar was removed, may be worn for comfort as needed.   She 
will follow up in the office in 1 month with Cervical Spine CT

#Respiratory
The patient maintained her airway pre-op and did not require 
intubation. On ___, the chest x-ray and CTA revealed bilateral 
pleural effusions, left greater than right as well as an 
aspiration PNA. The CTA was negative for PE. She underwent 
bilateral lower extremity Doppler studies which were negative 
for DVT. She was started on a course of Cefepime and Vancomycin 
for treatment of the PNA. Chest x-ray on ___ which showed a 
worsening left pleural effusion. On ___, the pleural effusion 
was tapped for 500cc. On ___ in ___ the patient was turned to 
left side and had immediate desaturation to 90 and SBP to ___, 
returned to baseline when off left side. On ___, she was placed 
on Lasix drip for reaccumulation of left pleural effusion.  The 
patients daughter agreed to trach placement. Tracheostomy was 
placed by ACS on ___. On ___, the patient became tachypneic. 
CXR showed worsening of 
bilateral pleural effusions. She underwent bilateral placement 
of pigtail catheters. On ___, catheters were removed. Trach was 
placed ___ and she is intermittently able to be weaned to trach 
collar.  She was evaluated by SLP for speaking valve ___, but 
he was unable to exhale, appeared anxious and becomes 
bradycardic, so SLP re-eval was deferred until trach could be 
downsized. On ___, the patient complained of shortness of 
breath and was placed on the PSV/CPAP in the morning. The 
patient is intermittently on the vent for pressure support.  ACS 
was going to downsize her trach on ___, however they did not 
have the right equipment.  Her trach should be downsized per 
rehab with a SLP eval afterward.  Currently she has Portex 8.0 
in place, recommendation is to downsize to 6.0. She doesn't have 
too many secretions, and only requires intermittent suctioning.  
She does at times feel short of breath and asks for suction.  At 
other times she feels short of breath and because tachypneic 
requiring vent support, most recent settings ___ overnight PSV 
8 PEEP 5 FiO2 40%.  On transfer to rehab, she is on trach collar 
40% humidified air. 

#Cardiac
The patient was noted to be bradycardic on admission; 
norepinephrine was used to maintain MAP goal in setting of 
bradycardia. On ___, patient developed tachy arrhythmia so 
norepinephrine was transitioned to phenylephrine, with MAP 
goal>60.  On ___, the patient had a 6-beat run of SVT. A set of 
lytes were ordered and they were within normal limits. On ___ 
overnight the patients EKG had diffuse T-wave inversions (new), 
trop and CK-MB negative.  Patient did require a prolonged course 
of phenylephrine to maintain MAP >60 in setting of spine shock.  
Patient was weaned off pressors with addition of midodrine and 
florinef to regimen.  On discharge, patient is has been weaned 
to midodrine 5mg po TID.  Patient does have intermittent 
bradycardia to which she will brady to ___, and even with 5 
second pause.  She did require atropine 0.5mg IV 3 times during 
her stay, last dose given ___.  EP was consulted.  Their 
recommendation was to add theophylline 100mg po BID to patient's 
regimen to help with increased parasympathetic tone and 
autonomic instability.  Patient's bradycardia is thought to be a 
significant parasympathetic response in setting of C spine 
injury. Pacemaker or other instrumentation is not indicated in 
this situation. These episodes should self resolve, EP does not 
believe that atropine was helpful the 3 times it was given 
during this admission, but rather the patient responded on her 
own before effects of atropine could take effect.  Theophylline 
levels do not need to be monitored. 

#Pleural effusions
See "Respiratory" section for further details.  Patient did 
require significant diuresis during her stay, as well as 
bilateral pigtail catheters for pleural effusions.  On 
discharge, she is receiving 60mg po Lasix daily. 

#Hypotension
The patient was treated with midodrine for hypotension.

#Anemia
H&H were noted to be low during her hospitalization. The patient 
was transfused PRBC's on ___ with improvement in her H&H. On 
discharge, H and H stable at 8.6 and 26.9.

#GI
She was maintained NPO on tube feeds postoperatively. The 
patient continues on and off vent.  She underwent placement of a 
PEG on ___.  She needs follow up with SLP for re-eval of 
swallow once trach is downsized to Portex 6.0.  

#GU
The patient reported that she uses a pessary; which was removed. 
 Foley catheter was placed for urinary retention. Foley catheter 
was removed and replaced on ___ in order to allow rectal wound 
to heal.  

#ID 
-pneumonia 
CXR was suspicious for PNA on ___, she was started on 
cefepime and vanncomycin. On ___ Vanco was discontinued. On 
___ the patients WBC 19.1 from 13.2. fever overnight 100.7, 
urine/blood cx from ___ pending and mini BAL from ___ negative 
for microorganisms final culture is pending. On ___ the 
patient was febrile to 103, blood/urine/mini BAL was sent. 
Cefepime was continued at current dose. She was febrile on ___ 
to 103 and recultured. On ___ Cefepime was changed to meropenem 
for new growths from BAL. On ___ Meropenem completed and 
continued on Vanco for total of 7 day treatment. Frequent vanco 
levels were checked and vanco was titrated accordingly.  
-Yeast infection
She was started on Miconazole intravag. x 3 days for yeast 
(___)
- rectal wound
Patient did have a flexiseal in place for some time for 
diarrhea. Once flexiseal removed she was noted to have would by 
her rectum.  She was seen by wound RN, recommendation is OTA.

#Suicidal ideations
The patient mouths the desire to die and psych was consulted. It 
was determined she does not have the capacity to make those 
decisions. On ___, she began to mouth "I want to die" and was 
more consistent, psych re-consulted on ___. She was 
re-evaluated by ___ and is agreeing to continued care. 

 

 

 
Medications on Admission:
Unknown
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO/PR DAILY  
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
4.  Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol  
5.  Docusate Sodium 100 mg PO BID  
6.  Enoxaparin Sodium 40 mg SC Q24H 
7.  Escitalopram Oxalate 10 mg PO DAILY  
8.  Famotidine 20 mg PO BID  
9.  Furosemide 60 mg PO DAILY  
10.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  
11.  Glycopyrrolate 0.2 mg IV Q12H:PRN for secretions  
12.  Haloperidol 0.5 mg PO QHS  
13.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB  
14.  Midodrine 5 mg PO TID  
15.  Sarna Lotion 1 Appl TP TID:PRN pruritis   
16.  Senna 8.6 mg PO BID:PRN Constipation   
17.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
18.  Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
 
19.  Theophylline (Oral Solution) 100 mg PO Q12H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Unstable C3-7 fractures with canal disruption s/p Ant corpectomy 
C7 and C4-T1 fusion
Spinal cord injury with acute spinal shock, subsequent autonomic 
instability with bradycardia from increased parasympathetic tone
Acute ventilator dependent respiratory failure w/ PNA, pleural 
effusions

 
Discharge Condition:
Mental Status: Confused - sometimes.
Activity Status: Bedbound.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Spinal Fusion

Surgery
•Your incision is closed with staples or sutures. You will need 
suture/staple removal. 
•Do not apply any lotions or creams to the site. 
•Please keep your incision dry until removal of your 
sutures/staples.
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•*** You must wear your brace at all times. You do need to 
sleep with it on. 
•*** You must wear your brace while showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___